US08030500B2
4-Fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1-(2-(pyrimidin-5-yl)pyridin-4-yl)-1H-isoindol-3-amine
The title compound was synthesized as described in Example 33 in 7% yield starting from 1-(2-Bromopyridin-4-yl)-4-fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1H-isoindol-3-amine (200 mg, 0.45 mmol) and pyrimidin-5-ylboronic acid (61.8 mg, 0.50 mmol).

reactant | 1-(2-Bromopyridin-4-yl)-4-fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1H-isoindol-3-amine | 0.45 mmol, 200 mg | BrC1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=NC(=C(C(=C1)C)OC)C | C21H18BrFN4O
reactant | pyrimidin-5-ylboronic acid | 0.50 mmol, 61.8 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | 4-Fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1-(2-(pyrimidin-5-yl)pyridin-4-yl)-1H-isoindol-3-amine | 7% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C=1C=NC=NC1)C1=NC(=C(C(=C1)C)OC)C)N | C25H21FN6O
